US04880809
A mixture of 2,3-dihydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one (1.0 g), dimethyl sulfate (0.65 g), anhydrous potassium carbonate (0.86 g) and acetone (20 ml) is stirred at 50° C. for two hours. After cooling, the reaction mixture is subjected to filtration, and the filtrate is concentrated under reduced pressure. To the concentrate is added water, which is extracted with ethyl acetate. The organic layer is washed with water, dried and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (hexane:ethyl acetate=5:1) to afford 3-hydroxy-2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one (0.67 g), which is recrystallized from ethyl acetate-hexane to give colorless needles, m.p. 115°-116° C.

reactant | 2,3-dihydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 1.0 g | OC=1C(=CC2=C(CCCCC2=O)C1)O | C11H12O3
reactant | dimethyl sulfate | 0.65 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 0.86 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 3-hydroxy-2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 0.67 g | OC1=CC2=C(CCCCC2=O)C=C1OC | C12H14O3
